US06048868
3-Chloropropionyl chloride is added to aluminium chloride (4.34 g) in 1,2-dichloroethane (200 mL), followed by ethyl 6-methoxy-1-methyl-2,3,4,9-tetrahydro-1H-β-carboline-9-carboxylate (3 g as a solution in 1,2-dichloroethane). The mixture is stirred overnight at room temperature and then hydrolysed (100 mL of water). Afier separation of the phases by settling and evaporation of the solvent, the crude product is taken up in ethanol (20 mL) and potassium hydroxide solution (20 mL, 6N), and the resulting solution is stirred for 3 h. After evaporation of the ethanol, the crude product is extracted and then recrystallized from ethyl acetate. The 8-acetyl-7-methyl-2,3,4,6,7,8,9, 10-octahydropyrano[2,3-h]-β-carbolin-4-one is thus obtained (59% yield).

reactant | 3-Chloropropionyl chloride | ClCCC(=O)Cl | C3H4Cl2O
reactant | aluminium chloride | 4.34 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | ethyl 6-methoxy-1-methyl-2,3,4,9-tetrahydro-1H-β-carboline-9-carboxylate | COC=1C=C2C=3CCNC(C3N(C2=CC1)C(=O)OCC)C | C16H20N2O3
reactant | water | 100 mL | O | H2O
reactant | 1,2-dichloroethane | 200 mL | ClCCCl | C2H4Cl2
product | 8-acetyl-7-methyl-2,3,4,6,7,8,9, 10-octahydropyrano[2,3-h]-β-carbolin-4-one | 59% yield | C(C)(=O)N1C(C=2NC=3C=C4C(=CC3C2CC1)OCCC4=O)C | C17H18N2O3
